US07504508B2
N-(4-chlorophenyl)-N-[(2S,4R)-1-(4-fluoro-3-hydroxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide (476 mg, 1.05 mmol) was dissolved in DMF at room temperature and Cs2CO3 (854 mg, 2.63 mmol) was added. Methyl 4-bromo-2,2-dimethylbutanoate (702 mg, 1.58 mmol) was added and the reaction was stirred at r.t. overnight. The reaction mixture was concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water, then extracted three times with ethyl acetate, dried over MgSO4, filtered and concentrated down. The crude residue was purified by silica gel chromatography (hexanes-ethyl acetate system) to afford methyl 4-(5-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}-2-fluorophenoxy)-2,2-dimethylbutanoate (286 mg, 52%).

reactant | N-(4-chlorophenyl)-N-[(2S,4R)-1-(4-fluoro-3-hydroxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide | 1.05 mmol, 476 mg | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC(=C(C=C1)F)O)=O)C | C25H22ClFN2O3
reactant | Cs2CO3 | 2.63 mmol, 854 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Methyl 4-bromo-2,2-dimethylbutanoate | 1.58 mmol, 702 mg | BrCCC(C(=O)OC)(C)C | C7H13BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 4-(5-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}-2-fluorophenoxy)-2,2-dimethylbutanoate | 286 mg, 52% | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C=1C=CC(=C(OCCC(C(=O)OC)(C)C)C1)F)C)C1=CC=C(C=C1)Cl | C32H34ClFN2O5
